US08168794B2
Method 1 was followed using 1 eq each of 4-chloro-3-nitropyridine, tert-butyl (3S,4S)-4-(tert-butyldimethylsilyloxy)piperidin-3-ylcarbamate and triethylamine in DMF yielding tert-butyl(3S,4S)-4-(tert-butyldimethylsilyloxy)-1-(3-nitropyridin-4-yl)piperidin-3-ylcarbamate, (98%). LCMS (m/z): 453.3 (MH+); LC Rt=4.01 min.

reactant | 4-chloro-3-nitropyridine | 1 eq | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | tert-butyl (3S,4S)-4-(tert-butyldimethylsilyloxy)piperidin-3-ylcarbamate | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@H](CNCC1)NC(OC(C)(C)C)=O | C16H34N2O3Si
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-butyl(3S,4S)-4-(tert-butyldimethylsilyloxy)-1-(3-nitropyridin-4-yl)piperidin-3-ylcarbamate | 98% | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@H](CN(CC1)C1=C(C=NC=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C21H36N4O5Si
